US04871655
(b) Synthesis of 1-acetyloxy-4-octadecyloxynaphthalene:
An amount of 250 ml of octadecanol was dissolved by heating to 60° C. and 8.0 g of hydrochloric acid gas was blown thereinto little by little. Next, 44.5 g of anhydrous tin chloride and 25.0 g of 1,4-naphthoquinone were added, and the mixture was heated on a water bath of 75° C. for 2 hours. After the reaction, the product was poured into 1,000 ml of ethyl acetate, the insolubles were filtered off, and the ethyl acetate layer was washed with water. After evaporation of ethyl acetate under reduced pressure, octadecanol was recovered by vacuum distillation. The residue was dissolved in 30 ml of anhydrous acetic acid, and 2 to 3 drops of conc. sulfuric acid were added thereto, whereby vigorous heat generation occurred. After 30 minutes, ice-water was added, and the oily product separated was extracted with 500 ml of n-hexane. After washing with water and drying, the solvent ws evaporated and the residue was purified by column chromatography to obtain a thick syruppy desired product at a yield of 52%. The product was confirmed by NMR, Mass spectra.

reactant | octadecanol | 250 ml | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | hydrochloric acid | 8.0 g | Cl | ClH
reactant | tin chloride | 44.5 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1,4-naphthoquinone | 25.0 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | ethyl acetate | 1,000 ml | C(C)(=O)OCC | C4H8O2
product | 1-acetyloxy-4-octadecyloxynaphthalene | yield of 52% | C(C)(=O)OC1=CC=C(C2=CC=CC=C12)OCCCCCCCCCCCCCCCCCC | C30H46O3
